Name:  ___                 Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: ___
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___
 
Chief Complaint:
Abdominal Pain, N/V
 
Major Surgical or Invasive Procedure:
None
 
History of Present Illness:
Ms. ___ is a ___ year old woman with a hx of metastatic 
ovarian
cancer (to abdomen, s/p debulking ___ at ___, 
last
chemo ___, breast cancer s/p mastectomy, chronic 
pancreatitis
who presented to ___ with abdominal pain/N/V and
was transferred given concern for SBO.

Ms. ___ lives in ___, ___ and has been undergoing
treatment for metastatic ovarian cancer at ___ 
(known
mets intra-abdominally, including omentum, s/p debulking
procedure ___. She recently completed chemotherapy with
taxol/carboplatin in ___ and was told she is in remission
based on CT scan on ___. 

She reports intermittent constipation recently, with her last
bowel movement on ___. She subsequently saw her oncologist on
___, who prescribed lactulose and dulcolax and encourage
ambulation. Ms. ___ subsequently traveled to the ___ with 
her
family. While there, she remained constipated despite her bowel
regimen. ON ___ she developed L-sided abdominal pain after lunch
followed by nausea and multiple episodes of NBNB emesis. She
presented to ___, where CT A/P showed mildly
dilated proximal small bowel loops with air-fluid levels, 
thought
to represent ileus vs low-grade pSBO, with large stool burden in
the proximal colon. An NGT was placed and she was transferred to
___.

ED:
T98.8, BP 168/72, HR 71, RR 19, 96% RA
Exam: abd non-tender and non-distended
Labs: WBC 6.5, Hgb 9.7, BMP WNL, LFTs WNL, Ferritin 121
Imaging: none here
Consults: ACS - likely severe constipation; NPO and bowel 
regimen
Interventions: Toradol 15mg, Zofran 4mg, Fleet enema, NS -> LR 
at
100cc/hr

On arrival to the floor, Ms. ___ reports that she had a
relatively normal bowel movement in the ED with fleet enema. Her
abdominal pain is significantly improved, ~2 of 10 without
radiation. Denies recurrent N/V. In addition, she denies F/C, 
CP,
SOB, cough, dysuria/hematuria, headaches, new rashes,
dizziness/lightheadedness.

ROS: Pertinent positives and negatives as noted in the HPI.  All
other systems were reviewed and are negative. 

 
Past Medical History:
HLD
Metastatic ovarian cancer s/p Taxol/Carboplatin and debulking
(___)
Breast cancer status post mastectomy 
GERD
S/p CCY
S/p hysterectomy

 
Social History:
___
Family History:
Reviewed and found to be not relevant to this illness/reason for
hospitalization.

 
Physical Exam:
Admission Exam
24 HR Data (last updated ___ @ 1739)
Temp: 99.1 (Tm 99.1), BP: 148/71, HR: 77, RR: 18, O2 sat: 95%, 
O2
delivery: Ra  
GENERAL: Alert and in no apparent distress
EYES: Anicteric, PERRL
ENT: OP clear, NGT in place, clamped
CV: RRR, nl S1, S2, no m/r/g
CHEST: R-sided port accessed
RESP: Lungs clear to auscultation with good air movement
bilaterally.  Breathing is non-labored
GI: + BS, soft, minimal TTP LUQ, no R/G
GU: No suprapubic fullness or tenderness to palpation
MSK: Lower extremities warm without edema
SKIN: No rashes or ulcerations noted
NEURO: AOx3, CN II-XII intact, ___ strength all extremities,
sensation grossly intact throughout, gait not tested
PSYCH: pleasant, appropriate affect

Discharge Exam
Temperature 98.4, afebrile, blood pressure 144/67, heart rate 
90, respirations 18, O2 saturation 95% on room air.  Multiple 
stools noted, as well as some oral intake on the day of 
discharge.  Older woman seated in bed, alert, cooperative, NAD.  
Bald, anicteric, MMM.  Equal chest rise, CTAB posteriorly, no 
WOB or cough.  Heart regular.  Abdomen soft, nondistended, 
nontender, with a well-healed midline scar.  Extremities warm 
and well-perfused.  She has a right chest wall port which is 
accessed.  There is no nasogastric tube.
 
Pertinent Results:
Admission Labs
WBC 6.5, Hgb 9.7 (MCV 93), Plt 221
INR 1.0
BMP WNL
LFTs WNL
Ferritin 121, TIBC ___/P ___, per ACS report; no report available in chart): 
Mildly dilated proximal small bowel loops with air-fluid levels, 
nonspecific, but could represent ileus or low grade partial 
obstruction. Enteric contents through the rectum argues against 
a moderate or high grade obstruction. Potential transition point 
in the central left lower quadrant. Large stool burden in the 
proximal colon.

___ CXR -- IMPRESSION: A right-sided Port-A-Cath terminates in 
the low SVC.

Discharge labs
___ 05:22AM BLOOD WBC-6.7 RBC-3.19* Hgb-9.8* Hct-30.0* 
MCV-94 MCH-30.7 MCHC-32.7 RDW-16.6* RDWSD-57.0* Plt ___
___ 05:22AM BLOOD Glucose-136* UreaN-7 Creat-0.5 Na-140 
K-3.7 Cl-104 HCO3-26 AnGap-10
___ 05:22AM BLOOD Calcium-8.4 Phos-3.5 Mg-1.___ year old woman with a hx of metastatic ovarian cancer (to 
abdomen, s/p debulking ___ at ___, last chemo 
___, breast cancer s/p mastectomy, chronic pancreatitis who 
presented to ___ with abdominal pain/N/V and was 
transferred given concern for SBO.

After arrival to ___, she was evaluated by the surgery team 
who felt she just had severe constipation, she was treated with 
a bowel regimen and had several bowel movements and improved.

On the day of discharge, she was feeling well, with no abdominal 
pain (apart from very mild slight discomfort on the left side 
which has been present for weeks), no nausea or vomiting, and 
was able to tolerate a regular diet without difficulty.  We 
reviewed her medications and her plan of care, including 
follow-up appointments, and answered all of her questions.  Her 
daughter was present for these conversations.

# Abdominal Pain
# N/V
# Constipation with 
# Concern for SBO
-Patient presented with abdominal pain and N/V, with OSH imaging 
concerning for constipation/ileus vs low-grade pSBO. Was seen by 
surgical consult team, who felt that SBO was unlikely and 
recommended aggressive bowel regimen (recognizing that she 
remains at risk for SBO given recent intra-abdominal surgery)
-After admission the patient had at least 5 bowel movements, 
with resolution of her pain and nausea
-Her NG tube was inadvertently yanked out when she walked to the 
bathroom, so the day of discharge, her diet was advanced, and 
well-tolerated
–It will be important for her to follow-up with her outpatient 
professionals affiliated with ___, and her PCP, who 
she described as having an expertise in constipation -- she will 
make an appointment for early this coming week

# Normocytic anemia, stable
-Hgb 9.7 on admission; b/l unclear.  Suspect secondary to recent 
chemotherapy. Iron studies c/w anemia of chronic disease. No 
suspicion for active bleeding.
–Nonurgent outpatient follow-up

# Metastatic ovarian cancer s/p chemotherapy and dubulking -- 
outpatient f/u with oncologist at ___

# Hyperlipidemia -- continued home statin

# Gastroesophageal reflux disease --continue home dexilant

#Advance care planning
–Contacts/HCP/Surrogate and Communication: ___ (daughter/HCP) 
___
-Code Status: DNR/DNI (confirmed)

[x] The patient is safe to discharge today, and I spent [ ] 
<30min; [x] >30min in discharge day management services.

___, MD
___
Pager ___
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Atorvastatin 5 mg PO EVERY OTHER DAY 
2. Dexilant (dexlansoprazole) 30 mg oral DAILY 
3. Lactulose 30 mL PO DAILY 
4. Bisacodyl 10 mg PO DAILY:PRN Constipation - First Line 

 
Discharge Medications:
1.  Docusate Sodium 100 mg PO BID  
2.  Bisacodyl 10 mg PO DAILY  
3.  Lactulose 30 mL PO DAILY:PRN constipation  
4.  Atorvastatin 5 mg PO EVERY OTHER DAY  
5.  Dexilant (dexlansoprazole) 30 mg oral DAILY  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
#Abdominal pain, nausea, vomiting
#Constipation
#Normocytic anemia, stable
#Metastatic ovarian cancer s/p chemotherapy and dubulking

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
You were admitted with abdominal pain, nausea, and vomiting, 
which we ultimately felt was related to constipation.  With 
treatment of constipation, your symptoms resolved and you were 
able to tolerate a regular diet.  Please continue to take your 
stool softeners and follow-up with the doctors at 
___ and your primary care doctor.
 
Followup Instructions:
___